US09238647B2
Step E: 5-(4-methylphenyl)imidazo[1,2-a]pyridine-7-carboxylic acid
To a solution of tert-butyl 5-(4-methylphenyl)imidazo[1,2-a]pyridine-7-carboxylate (40 mg, 0.13 mmol) in dichloromethane (0.65 mL) was added trifluoroacetic acid (0.65 mL). The mixture was stirred at ambient temperature. After 1.5 h, the mixture was concentrated. The crude product was purified by reverse phase HPLC (C-18, 95% water/acetonitrile→5% water/acetonitrile with 0.025% trifluoroacetic acid) gave the mixture of the title compound and the impurities. The mixture was carried onto the next step: LC-MS [H+1]=253.1.

reactant | tert-butyl 5-(4-methylphenyl)imidazo[1,2-a]pyridine-7-carboxylate | 0.13 mmol, 40 mg | CC1=CC=C(C=C1)C1=CC(=CC=2N1C=CN2)C(=O)OC(C)(C)C | C19H20N2O2
reactant | trifluoroacetic acid | 0.65 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 0.65 mL | ClCCl | CH2Cl2
product | 5-(4-methylphenyl)imidazo[1,2-a]pyridine-7-carboxylic acid | CC1=CC=C(C=C1)C1=CC(=CC=2N1C=CN2)C(=O)O | C15H12N2O2
